US03966758
1(4-Chlorobenzyl)-2-imidazolidinone
A 21.5 g (0.25 mole) portion of 2-imidazolidinone in 300 ml of dimethylsulfoxide was treated with 34.5 g (0.25 mole) of potassium carbonate, 10 g (0.06 mole) of potassium iodide and 40.5 g (0.25 mole) of 4-chlorobenzyl chloride. The reaction mixture was heated to 100° over 0.3 hours, held at 100° with rapid stirring for 1.3 hours and poured into 1.3 l of water. The aqueous mixture was extracted with 1.3 l of chloroform. The chloroform extract was washed with 150 ml of water, dried over magnesium sulfate for 3 hours and filtered. The filtrate was concentrated to dryness to give 49 g (92%) a light yellow oil which crystallized.

reactant | 2-imidazolidinone | N1C(NCC1)=O | C3H6N2O
reactant | potassium carbonate | 0.25 mole, 34.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 0.06 mole, 10 g | [I-].[K+]
reactant | 4-chlorobenzyl chloride | 0.25 mole, 40.5 g | ClC1=CC=C(CCl)C=C1 | C7H6Cl2
solvent | dimethylsulfoxide | 300 ml | CS(=O)C | C2H6OS
solvent | water | 1.3 l | O | H2O
product | 1(4-Chlorobenzyl)-2-imidazolidinone | 49 g, 92% | ClC1=CC=C(CN2C(NCC2)=O)C=C1 | C10H11ClN2O
